US07034039B2
3-(Aminomethyl)-2-isobutyl-6-(methylsulfinyl)-4-phenyl-1(2H)-isoquinolinone
To a mixture of 3-(aminomethyl)-2-isobutyl-6-(methylsulfanyl)-4-phenyl-1(2H)-isoquinolinone (0.18 g, 0.52 mmol), conc. sulfuric acid (0.0168 mL, 0.31 mmol), methanol (2 mL) and water (5 mL) was added Oxone® (0.19 g, 0.31 mmol), and the mixture was stirred at room temperature for 30 min. The reaction mixture was poured into saturated, aqueous sodium hydrogencarbonate (50 mL) and extracted 3 times with ethyl acetate (25 mL). The extracts were combined, washed with saturated brine (10 mL), dried over anhydrous magnesium sulfate (9 g) and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=10:1 (v/v)). The resulting oil was solidified from diisopropyl ether (1 mL) to give the title compound (0.081 g, 42%) as a pale-yellow powder.

reactant | 3-(aminomethyl)-2-isobutyl-6-(methylsulfanyl)-4-phenyl-1(2H)-isoquinolinone | 0.52 mmol, 0.18 g | NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)SC)=O)CC(C)C | C21H24N2OS
reactant | sulfuric acid | 0.31 mmol, 0.0168 mL | S(O)(O)(=O)=O | H2O4S
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | sodium hydrogencarbonate | 50 mL | C(O)([O-])=O.[Na+]
solvent | water | 5 mL | O | H2O
solvent | methanol | 2 mL | CO | CH4O
product | 3-(Aminomethyl)-2-isobutyl-6-(methylsulfinyl)-4-phenyl-1(2H)-isoquinolinone | 0.081 g, 42% | NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)S(=O)C)=O)CC(C)C | C21H24N2O2S
